US09102674B2
Step A: 7-Hydroxy-2-methylquinoline-3-carboxylic acid.
7-Methoxy-2-methylquinoline-3-carboxylic acid (100 mg, 0.46 mmol) was suspended in HBr (aq.) (48%, 5 ml) and heated at 105° C. overnight. The reaction was cooled to ambient temperature. The precipitate was collected by filtration and dried under high vacuum to afford the title compound as a yellow solid (86 mg, 91%).

reactant | 7-Methoxy-2-methylquinoline-3-carboxylic acid | 0.46 mmol, 100 mg | COC1=CC=C2C=C(C(=NC2=C1)C)C(=O)O | C12H11NO3
solvent | HBr | 5 ml | Br | BrH
product | 7-Hydroxy-2-methylquinoline-3-carboxylic acid | 86 mg, 91% | OC1=CC=C2C=C(C(=NC2=C1)C)C(=O)O | C11H9NO3
